US06649643B1
Production of 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide
In a manner to that described in Example 9-(i), methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate (2.0 g) was converted to 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid and this compound was dissolved in DMF (10 mL). Ammonium carbonate (558 mg), diphenylphosphorylazide (0.91 mL) and triethylamine (0.98 mL) were added and the resulting mixture was stirred at room temperature for 12 h. The mixture was diluted with water, extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated. The residue was purified by column chromatography (eluent; hexane:THF=1:2) to give the titled compound (1.96 g) as a colorless powder.

reactant | methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate | 2.0 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C38H34N2O3
reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C37H32N2O3
reactant | Ammonium carbonate | 558 mg | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | diphenylphosphorylazide | 0.91 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.98 mL | C(C)N(CC)CC | C6H15N
product | 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide | 1.96 g | OC(C(C)C)(C=1N=CNC1)C=1C=C2C=CC(=CC2=CC1)C(=O)N | C18H19N3O2
